US07834063B2
4-[[2-(Phenylsulfinyl)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
To a solution of 4-[[2-(phenylthio)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile (0.039 g, 0.096 mmol) in MeOH (3 mL) was added a solution of NaIO4 (0.041 g, 0.193 mmol) in water (1 mL) and stirred at rt. After 1 h, additional NaIO4 (0.041 g, 0.19 mmol) dissolved in water (1 mL) was added and the reaction mixture diluted with MeOH (1 mL). After stirring at rt for 12 h, the mixture was partitioned between EtOAc and brine. The organic phase was washed with water and brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by silica gel chromatography (1-10% MeOH/CH2Cl2 gradient) to give the title compound (0.037 g, 88% yield): MS (ES) m/z 421 (M+1).

reactant | 4-[[2-(phenylthio)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.096 mmol, 0.039 g | C1(=CC=CC=C1)SCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C18H14F6N2S
reactant | MeOH | 3 mL | CO | CH4O
reactant | MeOH | 1 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | 4-[[2-(Phenylsulfinyl)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.037 g, 88% yield | C1(=CC=CC=C1)S(=O)CCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C18H14F6N2OS
